US04812162
Potassium tert-butoxide (0.77 g, 6.9 mmol) was stirred with dry ether (50 ml) containing 18-crown-6 (0.164 g, 0.62 mmol). 6-Ethoxyindole (1.0 g, 6.2 mmol) was added portionwise over 15 minutes at room temperature. This was stirred for 1/2 hour then cooled to 0° C. when methyl bromoacetate (0.65 ml, 6.9 mmol) in ether (5 ml) was added dropwise. The reaction mixture was stirred for 16 hours at room temperature then poured into water (150 ml) and extracted with ether (2×100 ml). The extracts were washed with brine (2×75 ml), dried and concentrated to give crude methyl(6-ethoxyindol-1-yl)acetate (1.4 g, 96% yield) as a brown oil.

reactant | Potassium tert-butoxide | 6.9 mmol, 0.77 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 0.62 mmol, 0.164 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 6-Ethoxyindole | 6.2 mmol, 1.0 g | C(C)OC1=CC=C2C=CNC2=C1 | C10H11NO
reactant | methyl bromoacetate | 6.9 mmol, 0.65 ml | BrCC(=O)OC | C3H5BrO2
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
product | methyl(6-ethoxyindol-1-yl)acetate | 1.4 g, 96% yield | COC(CN1C=CC2=CC=C(C=C12)OCC)=O | C13H15NO3
